US06900336B2
7-{(R)-5-[(E)-3-Hydroxy-3-(5-trifluoromethyl-furan-2-yl)-propenyl]-3,3-dimethyl-2-oxo-pyrrolidin-1-yl}-heptanoic Acid
7-{(R)-5-[(E)-3-hydroxy-3-(5-trifluoromethyl-furan-2-yl)-propenyl]-3,3-dimethyl-2-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester (89 mg, 0.2 mmol) was dissolved in methanol (3 mL) and the solution cooled in an ice bath. A 20% solution of sodium hydroxide (0.280 mL, 1.4 mmol) was slowly added and when the addition was complete, the reaction flask was left stirring overnight at room temperature. The reaction solution was concentrated under vacuum; the residue was suspended in 5 mL of 0.1 N solution of sodium hydroxide and it was washed twice with diethyl ether. The solution was then acidified with 1 N hydrochloric acid and extracted three times with ethyl acetate. The organic layer was washed with brine and dried over magnesium sulfate giving after concentration 55 mg of 7-{(R)-5-[(E)-3-hydroxy-3-(5-trifluoromethyl-furan-2-yl)-propenyl]-3,3-dimethyl-2-oxo-pyrrolidin-1-yl}-heptanoic acid (55) (80). MS: 432 [(M+H)+].

reactant | 7-{(R)-5-[(E)-3-hydroxy-3-(5-trifluoromethyl-furan-2-yl)-propenyl]-3,3-dimethyl-2-oxo-pyrrolidin-1-yl}-heptanoic acid ethyl ester | 0.2 mmol, 89 mg | C(C)OC(CCCCCCN1C(C(C[C@@H]1\C=C\C(C=1OC(=CC1)C(F)(F)F)O)(C)C)=O)=O | C23H32F3NO5
reactant | sodium hydroxide | 1.4 mmol, 0.280 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 7-{(R)-5-[(E)-3-Hydroxy-3-(5-trifluoromethyl-furan-2-yl)-propenyl]-3,3-dimethyl-2-oxo-pyrrolidin-1-yl}-heptanoic Acid | OC(/C=C/[C@H]1CC(C(N1CCCCCCC(=O)O)=O)(C)C)C=1OC(=CC1)C(F)(F)F | C21H28F3NO5
